US07858624B2
(R)-tert-Butyl 3-((R)-(2-amino-2-oxoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate (1.10 g, 2.60 mmol) was dissolved in anhydrous toluene (30 mL) and cooled to 0° C. Red-A1 (65% in toluene, 2.6 mL, 8.64 mmol) was added dropwise. After the addition, the reaction was stirred at rt for 12 h and quenched by adding water slowly. The resulting mixture was filtered through Celite, washing with THF. The filtrate was evaporated under reduced pressure to give crude (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate (1.05 g), which was used for next step without further purification.

reactant | (R)-tert-Butyl 3-((R)-(2-amino-2-oxoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | 2.60 mmol, 1.10 g | NC(CO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl)=O | C19H27ClN2O4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | 1.05 g | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl | C19H29ClN2O3
